US08669234B2
2-{5-[2′-Cyano-4′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester (1.60 g, 2.96 mmol), 2-(5-Bromo-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (935 mg, 2.96 mmol), Pd(PPh3)4 (171 mg, 0.148 mmol), Pd(dppf)Cl2 (121 mg, 0.148 mmol) and a 2 M aqueous solution of potassium carbonate (3 mL, 6 mmol) were suspended in 1,2-dimethoxyethane and degassed for 11 min. The stirred reaction mixture was heated to 85° C. for 100 min, then poured into a saturated aqueous solution of sodium bicarbonate (200 mL) and extracted 3 times with ethyl acetate. The combined organic layers were dried over magnesium sulfate and concentrated. The crude residue was purified by silica column chromatography (5% to 10% MeOH/DCM) to afford the Suzuki coupled product (438 mg, 23%). This material (174 mg, 0.268 mmol) was treated with 4 M HCl in dioxane (4 mL). Solubility was poor so 2 mL dichloromethane and 4 mL DMF were added. After stirring for 40 min, the mixture was concentrated. The crude residue was treated with 2-Methoxycarbonylamino-3-methyl-butyric acid (103 mg, 0.590 mmol), HATU (255 mg, 0.670 mmol) and DMF (5 mL) and cooled to 0° C. DIPEA (0.470 mL, 2.68 mmol) was added and the reaction mixture was stirred for 4 hours then poured into a saturated aqueous solution of sodium bicarbonate (200 mL) and extracted 3 times with ethyl acetate. The combined organic layers were dried over magnesium sulfate and concentrated. The crude residue was brought up in DMF and water and purified by reverse phase preparative HPLC, giving (1-{2-[5-(2′-Cyano-4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (75 mg, 37%). (MeOH-d4, 400 MHz) 8.19-7.35 (m, 11H), 5.18 (m, 2H), 4.24 (m, 2H), 4.03-4.86 (m, 4H), 3.65 (s, 6H), 2.37-2.00 (m, 10H), 1.00-0.90 (m, 12H); MS (ESI) m/z 764 [M+H]+.

reactant | 2-{5-[2′-Cyano-4′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.96 mmol, 1.60 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C#N | C31H37BN4O4
reactant | 2-(5-Bromo-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.96 mmol, 935 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)Br | C12H18BrN3O2
reactant | potassium carbonate | 6 mmol, 3 mL | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
reactant | HCl | 4 M | Cl | ClH
reactant | 2-Methoxycarbonylamino-3-methyl-butyric acid | 0.590 mmol, 103 mg | COC(=O)NC(C(=O)O)C(C)C | C7H13NO4
reactant | HATU | 0.670 mmol, 255 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.68 mmol, 0.470 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.148 mmol, 171 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(dppf)Cl2 | 0.148 mmol, 121 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (1-{2-[5-(2′-Cyano-4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 75 mg, 37% | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=C(C=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)C#N)=O | C41H49N9O6
